US06403149B1
A mixture consisting of 2027 g of trifluoroacetic acid pentadecafluoroheptyl ester (made by reacting heptyl acetate with fluorine gas as described in U.S. Pat. No. 5,399,718 (Costello et al.)), 777 g of 3M™ PF-5052 Performance Liquid (a mixture of perfluorinated solvents, available from 3M Company), 3171 g of anhydrous diglyme and 79 g of anhydrous potassium fluoride were added to a 2-gallon (7.6 L) stainless steel stirred pressure vessel. The vessel was heated and 1816 g of hexafluoropropylene was added over a 2-hour period while maintaining a reaction temperature of about 50° C. The vessel was held at 50° C. for an additional 1½ hours after the hexafluoropropylene addition was complete. The reactor was cooled and drained. The resulting liquid was phase split and the lower phase fractionally distilled to give 565 g of 1,1,1,2,4,4,4-heptafluoro-3-trifluoromethyl-butan-2-one having a boiling point of 25° C. and purity of 95% and 1427 g of 1,1,1,2,4,4,5,5,6,6,7,7,8,8,9,9,9-heptadecafluoro-2-trifluoromethyl-nonan-3-one, having a boiling point of 134° C. and a 98.5% purity as determined by gas chromatography and mass spectroscopy.

reactant | trifluoroacetic acid pentadecafluoroheptyl ester | 2027 g | FC(C(C(C(C(C(F)(F)OC(C(F)(F)F)=O)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C9F18O2
reactant | heptyl acetate | C(C)(=O)OCCCCCCC | C9H18O2
reactant | fluorine | FF | F2
reactant | potassium fluoride | 79 g | [F-].[K+]
reactant | hexafluoropropylene | 1816 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | diglyme | 3171 g | COCCOCCOC | C6H14O3
product | 1,1,1,2,4,4,5,5,6,6,7,7,8,8,9,9,9-heptadecafluoro-2-trifluoromethyl-nonan-3-one | 1427 g | FC(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O)(C(F)(F)F)F)(F)F | C10F20O
